US05036098
(4-bromo-1,1-dimethyl-2-butynyl α-cyclohexyl-α-phenylglycolate
To a solution of 9.5 g 4-diethylamino-1,1-dimethyl-2-butynyl α-cyclohexyl-α-phenylglycolate in diethyl ether, was added dropwise an etheral solution of 3.2 g cyanogen bromide, and the mixture was stirred for one hour under ice cooling and then for 18 hours under cooling with water. 2N-HCl (14 ml) was added to the reaction mixture under ice cooling, and the separated etheral layer was collected, washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue left was purified by silica gel column chromatography (Wako Gel C-200; 1:15 mixture of ethyl acetate and n-hexane), giving 6.0 g of the objective compound as colorless oil.

reactant | 4-diethylamino-1,1-dimethyl-2-butynyl α-cyclohexyl-α-phenylglycolate | 9.5 g | C1(CCCCC1)C(C(=O)OC(C#CCN(CC)CC)(C)C)(O)C1=CC=CC=C1 | C24H35NO3
reactant | cyanogen bromide | 3.2 g | N#CBr | CBrN
reactant | water | O | H2O
reactant | HCl | 14 ml | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-bromo-1,1-dimethyl-2-butynyl α-cyclohexyl-α-phenylglycolate | 6.0 g | C1(CCCCC1)C(C(=O)OC(C#CCBr)(C)C)(O)C1=CC=CC=C1 | C20H25BrO3
